US08937083B2
To a stirred solution of sodium hydride (0.176 g, 4.41 mmol) in DMF (5 mL) was added a solution of 2-hydroxy-3-(methylthio)propanoic acid (0.25 g, 1.836 mmol) in 1 mL DMF at 25° C. and stirred for 10 min Vigorous bubbling was observed upon addition of NaH. Then iodomethane (0.126 mL, 2.020 mmol) was added and the solution was stirred at 25° C. overnight. The reaction was quenched by addition of 2 N HCl, extracted with 3×10 mL of EtOAc, the combined organic layers were washed with water (2×20 mL), concentrated and purified by column chromatography, eluted with 0-100% EtOAc/hexane, gave 2-methoxy-3-(methylthio)propanoic acid (126 mg, 0.839 mmol, 45.7% yield) as colorless oil: 1H NMR (400 MHz, CDCl3) δ 9.10 (s, 1H), 4.03 (dd, J=6.9, 4.4 Hz, 1H), 3.51 (s, 3H), 2.98-2.93 (m, 1H), 2.86 (dd, J=14.1, 6.9 Hz, 1H), 2.21 (s, 3H); EIMS m/z 150.

reactant | sodium hydride | 4.41 mmol, 0.176 g | [H-].[Na+]
reactant | 2-hydroxy-3-(methylthio)propanoic acid | 1.836 mmol, 0.25 g | OC(C(=O)O)CSC | C4H8O3S
reactant | iodomethane | 2.020 mmol, 0.126 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-3-(methylthio)propanoic acid | 0.839 mmol, 126 mg, 45.7% yield | COC(C(=O)O)CSC | C5H10O3S
